US04874877
(R)-2-Acetoxy-4-(methylthio)butyric Acid
D-Methionine (14.9 g, 0.10 mol) was stirred in 300 ml of acetic acid. Sodium nitrite (13.8 g, 0.2 mol) was added portionwise over 45 minutes while maintaining the temperature in the range 20°-30° C. After stirring for an additional 90 minutes at room temperature, the resulting yellow solution was stripped in vacuo to solids which were distributed between 300 ml each of water and ethyl acetate. The organic layer was separated, washed with saturated NaCl, dried over MgSO4 and stripped to yield 7.0 g of title product as a yellow oil, used directly in the next step; tlc Rf 0.08 (3:1 hexane:ethyl acetate).

reactant | D-Methionine | 0.10 mol, 14.9 g | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | Sodium nitrite | 0.2 mol, 13.8 g | N(=O)[O-].[Na+]
reactant | water | 300 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | (R)-2-Acetoxy-4-(methylthio)butyric Acid | 7.0 g | C(C)(=O)O[C@@H](C(=O)O)CCSC | C7H12O4S
